US07547691B2
(A). Preparation of 4-(2-cyanoacetyl)-4-methylpiperidine-1-carboxylic acid tert-butyl ester
Acetonitrile (3.07 mL, 58.4 mmol) is added to THF (75 mL). At −78° C. 1.6 M BuLi in hexanes is slowly added. After 15 minutes, 4-methylpiperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-methyl ester (6.83 g, 26.5 mmol) dissolved in THF (75 mL) is added dropwise. After 1 hour 2.2 equivalents of 5N HCl is added at −78° C. The reaction is warmed to room temperature and concentrated to about 50 mL volume. EtOAc (50 mL) and saturated aqueous sodium chloride (25 mL) are added to the mixture. The organic layer is separated, dried over Na2SO4, concentrated, and chromatographed on silica gel, eluting with 0-20% EtOAc in dichloromethane, to give the title compound (4.80 g, 68% yield).

reactant | Acetonitrile | 58.4 mmol, 3.07 mL | C(C)#N | C2H3N
reactant | BuLi | 1.6 M | [Li]CCCC
reactant | 4-methylpiperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-methyl ester | 26.5 mmol, 6.83 g | COC(=O)C1(CCN(CC1)C(=O)OC(C)(C)C)C | C13H23NO4
reactant | HCl | 5N, 2.2 equivalents | Cl | ClH
solvent | THF | 75 mL | C1CCOC1 | C4H8O
solvent | THF | 75 mL | C1CCOC1 | C4H8O
product | 4-(2-cyanoacetyl)-4-methylpiperidine-1-carboxylic acid tert-butyl ester | 4.80 g, 68% yield | C(C)(C)(C)OC(=O)N1CCC(CC1)(C)C(CC#N)=O | C14H22N2O3
